// File: nmos_side_right.spi
// Created: Sun Mar 15 12:50:56 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/nmos_side_right.pex.spice"
subckt nmos_side_right (  )
// 
M0_noxref ( noxref_1 noxref_3 noxref_2 noxref_5 ) NMOS l=0.160516 w=2.29447 m=1
c_3 ( noxref_1 0 ) capacitor c=0.0111751f //x=0.435 //y=0.535
c_6 ( noxref_2 0 ) capacitor c=0.204499f //x=0 //y=0
c_9 ( noxref_3 0 ) capacitor c=0.20791f //x=0.622 //y=0.925
// 
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/nmos_side_right.pxi.spice"
// 
ends NMOS_SIDE_RIGHT
// 
// 
